* File: pc3d01u.dist.sp
* Created: Sun Jul  4 13:43:52 2010
* Program "Calibre xRC"
* Version "v2008.4_19.14"
* 
.include "pc3d01u.dist.sp.pex"
.subckt pc3d01u  VDDO VSS VSSO CIN PAD VDD
* 
M8 N_PAD_M14_d N_U14_MN4$11_gate_M8_g N_VSSO_M8_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M9 N_PAD_M15_d N_U14_MN4$11_gate_M9_g N_VSSO_M9_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=3.99e-11 PD=3.672e-05 PS=6.266e-05
M10 N_PAD_M16_d N_U14_MN4$11_gate_M10_g N_VSSO_M10_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M11 N_PAD_M17_d N_U14_MN4$11_gate_M11_g N_VSSO_M8_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M12 N_PAD_M18_d N_U14_MN4$11_gate_M12_g N_VSSO_M12_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=3.99e-11 PD=3.672e-05 PS=6.266e-05
M13 N_PAD_M19_d N_U14_MN4$11_gate_M13_g N_VSSO_M10_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M1 N_U14_padr_M1_d N_net_m1_VSSO_res_M1_g N_VDDO_M1_s N_VDDO_M5_b PHV L=2e-06
+ W=2e-06 AD=4e-12 AS=4e-12 PD=8e-06 PS=8e-06
XR20 N_U14_MN4$11_gate_R20_pos N_VSSO_R20_neg RNWELLSTI2T w=2.1e-06 l=8.65e-06 
M14 N_PAD_M14_d N_U14_MN4$11_gate_M14_g N_VSSO_M14_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M15 N_PAD_M15_d N_U14_MN4$11_gate_M15_g N_VSSO_M14_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M16 N_PAD_M16_d N_U14_MN4$11_gate_M16_g N_VSSO_M16_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M17 N_PAD_M17_d N_U14_MN4$11_gate_M17_g N_VSSO_M16_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M18 N_PAD_M18_d N_U14_MN4$11_gate_M18_g N_VSSO_M18_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
M19 N_PAD_M19_d N_U14_MN4$11_gate_M19_g N_VSSO_M18_s N_VSSO_M14_b NHV L=5e-07
+ W=3e-05 AD=1.008e-10 AS=2.58e-11 PD=3.672e-05 PS=3.172e-05
XRM1 N_net_m1_VSSO_res_RM1_pos N_VSSO_RM1_neg RPMPOLY2T w=2e-06 l=6.455e-06 
M21 N_VDDO_M21_d N_U14_pgate_tol_M21_g N_PAD_M21_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=7.384e-11 AS=1.2064e-10 PD=0.00010684 PS=5.664e-05
M22 N_VDDO_M25_d N_U14_pgate_tol_M22_g N_PAD_M21_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M23 N_VDDO_M32_d N_U14_pgate_tol_M23_g N_PAD_M23_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M24 N_VDDO_M24_d N_U14_pgate_tol_M24_g N_PAD_M23_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=7.384e-11 AS=1.2064e-10 PD=0.00010684 PS=5.664e-05
M25 N_VDDO_M25_d N_U14_pgate_tol_M25_g N_PAD_M25_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M26 N_VDDO_M26_d N_U14_pgate_tol_M26_g N_PAD_M25_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M27 N_VDDO_M26_d N_U14_pgate_tol_M27_g N_PAD_M27_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M28 N_VDDO_M28_d N_U14_pgate_tol_M28_g N_PAD_M27_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M29 N_VDDO_M28_d N_U14_pgate_tol_M29_g N_PAD_M29_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M30 N_VDDO_M30_d N_U14_pgate_tol_M30_g N_PAD_M29_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M31 N_VDDO_M30_d N_U14_pgate_tol_M31_g N_PAD_M31_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
M32 N_VDDO_M32_d N_U14_pgate_tol_M32_g N_PAD_M31_s N_VDDO_M25_b PHV L=4e-07
+ W=5.2e-05 AD=4.732e-11 AS=1.2064e-10 PD=5.382e-05 PS=5.664e-05
XR6 N_X26/noxref_9_R6_pos N_PAD_R6_neg RNMPOLY2T w=4e-06 l=2.5e-06 
XR7 N_X26/noxref_9_R7_pos N_U14_padr_R7_neg RNMPOLY2T w=4e-06 l=2.5e-06 
M4 N_U14_pgate_tol_M4_s N_net_m4_VDDO_res_M4_g N_U14_pgate_tol_M4_s N_VSS_M4_b
+ NHV L=3.6e-07 W=1.667e-05 AD=6.8347e-12 AS=1.03354e-11 PD=1.749e-05
+ PS=3.458e-05
M4@2 N_U14_pgate_tol_M4@2_s N_net_m4_VDDO_res_M4@2_g N_U14_pgate_tol_M4@2_s
+ N_VSS_M4_b NHV L=3.6e-07 W=1.667e-05 AD=6.8347e-12 AS=6.8347e-12 PD=1.749e-05
+ PS=1.749e-05
M4@3 N_U14_pgate_tol_M4@3_s N_net_m4_VDDO_res_M4@3_g N_U14_pgate_tol_M4@3_s
+ N_VSS_M4_b NHV L=3.6e-07 W=1.667e-05 AD=1.05021e-11 AS=6.8347e-12 PD=3.46e-05
+ PS=1.749e-05
M2 N_VDDO_M2_d N_net_m2_VDDO_res_M2_g N_U14_pgate_tol_M2_s N_VSS_M4_b NHV
+ L=3.6e-07 W=1e-05 AD=6.2e-12 AS=6.2e-12 PD=2.124e-05 PS=2.124e-05
M38 N_U14_padr_M38_d N_net_m38_VSSO_res_M38_g N_VSSO_M38_s N_VSS_M4_b NHV
+ L=3.6e-07 W=1e-05 AD=6.2e-12 AS=4.1e-12 PD=2.124e-05 PS=1.082e-05
M38@2 N_U14_padr_M38@2_d N_net_m38_VSSO_res_M38@2_g N_VSSO_M38_s N_VSS_M4_b NHV
+ L=3.6e-07 W=1e-05 AD=6.2e-12 AS=4.1e-12 PD=2.124e-05 PS=1.082e-05
M37 N_U9_MPI1_drain_M37_d N_U14_padr_M37_g N_VSSO_M37_s N_VSS_M4_b NHV
+ L=3.6e-07 W=6e-06 AD=3.72e-12 AS=3.72e-12 PD=1.324e-05 PS=1.324e-05
M39 N_CIN_M39_d N_U9_MPI1_drain_M39_g N_VSS_M39_s N_VSS_M4_b NHV L=3.6e-07
+ W=6e-06 AD=3.72e-12 AS=3.72e-12 PD=1.324e-05 PS=1.324e-05
M5 N_U14_pgate_tol_M5_s N_net_m5_VSSO_res_M5_g N_U14_pgate_tol_M5_s N_VDDO_M5_b
+ PHV L=3.6e-07 W=1.667e-05 AD=6.8347e-12 AS=1.03354e-11 PD=1.749e-05
+ PS=3.458e-05
M5@2 N_U14_pgate_tol_M5@2_s N_net_m5_VSSO_res_M5@2_g N_U14_pgate_tol_M5@2_s
+ N_VDDO_M5_b PHV L=3.6e-07 W=1.667e-05 AD=6.8347e-12 AS=6.8347e-12 PD=1.749e-05
+ PS=1.749e-05
M5@3 N_U14_pgate_tol_M5@3_s N_net_m5_VSSO_res_M5@3_g N_U14_pgate_tol_M5@3_s
+ N_VDDO_M5_b PHV L=3.6e-07 W=1.667e-05 AD=1.05021e-11 AS=6.8347e-12 PD=3.46e-05
+ PS=1.749e-05
M3 N_U14_pgate_tol_M3_d N_net_m3_VSSO_res_M3_g N_VDDO_M3_s N_VDDO_M5_b PHV
+ L=3.6e-07 W=2e-05 AD=1.24e-11 AS=1.24e-11 PD=4.124e-05 PS=4.124e-05
M35 N_U14_padr_M35_d N_net_m35_VDDO_res_M35_g N_VDDO_M35_s N_VDDO_M5_b PHV
+ L=3.6e-07 W=2e-05 AD=1.24e-11 AS=1.24e-11 PD=4.124e-05 PS=4.124e-05
M33 U9_MPI2_drain N_U14_padr_M33_g N_VDDO_M33_s N_VDDO_M5_b PHV L=3.6e-07
+ W=2e-05 AD=4e-12 AS=1.24e-11 PD=2.04e-05 PS=4.124e-05
M34 N_U9_MPI1_drain_M34_d N_U14_padr_M34_g U9_MPI2_drain N_VDDO_M5_b PHV
+ L=3.6e-07 W=2e-05 AD=1.24e-11 AS=4e-12 PD=4.124e-05 PS=2.04e-05
M36 N_CIN_M36_d N_U9_MPI1_drain_M36_g N_VDD_M36_s N_VDD_M36_b PHV L=3.6e-07
+ W=8e-06 AD=5.36e-12 AS=3.28e-12 PD=1.734e-05 PS=8.82e-06
M36@2 N_CIN_M36@2_d N_U9_MPI1_drain_M36@2_g N_VDD_M36_s N_VDD_M36_b PHV
+ L=3.6e-07 W=8e-06 AD=3.28e-12 AS=3.28e-12 PD=8.82e-06 PS=8.82e-06
M36@3 N_CIN_M36@2_d N_U9_MPI1_drain_M36@3_g N_VDD_M36@3_s N_VDD_M36_b PHV
+ L=3.6e-07 W=8e-06 AD=3.28e-12 AS=3.28e-12 PD=8.82e-06 PS=8.82e-06
M36@4 N_CIN_M36@4_d N_U9_MPI1_drain_M36@4_g N_VDD_M36@3_s N_VDD_M36_b PHV
+ L=3.6e-07 W=8e-06 AD=4.96e-12 AS=3.28e-12 PD=1.724e-05 PS=8.82e-06
XRM35 N_net_m35_VDDO_res_RM35_pos N_VDDO_RM35_neg RPMPOLY2T w=2e-06 l=6.455e-06
+ 
XRM5 N_VSSO_RM5_pos N_net_m5_VSSO_res_RM5_neg RPMPOLY2T w=2e-06 l=6.455e-06 
XRM4 N_VDDO_RM4_pos N_net_m4_VDDO_res_RM4_neg RPMPOLY2T w=2e-06 l=6.455e-06 
XRM2 N_VDDO_RM2_pos N_net_m2_VDDO_res_RM2_neg RPMPOLY2T w=2e-06 l=6.455e-06 
XRM3 N_net_m3_VSSO_res_RM3_pos N_VSSO_RM3_neg RPMPOLY2T w=2e-06 l=6.455e-06 
XRM38 N_VSSO_RM38_pos N_net_m38_VSSO_res_RM38_neg RPMPOLY2T w=2e-06 l=6.455e-06
+ 
c_1 U9_MPI2_drain 0 0.0173376f
*
.include "pc3d01u.dist.sp.PC3D01U.pxi"
*
.ends
*
*
